*---------------------------------------------------------------
*  *** Spice model ***
*
*  Copyright (C) Panasonic Corporation
*
*  Conductive Polymer Aluminum Solid Capacitors (OS-CON)
*
*  Parts No. 50SVT68M
*---------------------------------------------------------------
.SUBCKT 50SVT68M 1 2
C_C1         6 7  64.7u  
C_C2         1 4  343.9u
C_C3         1 3  530u
C_C4         1 9  280u
C_C5         1 10 400u
L_L1         8 2  4.6n   
L_L2         4 6  0.6n
L_L3         4 5  2.0n
R_R1         7 8  14m 
R_R2         1 7  73529.4
R_R3         1 4  800m
R_R4         4 6  100m
R_R5         3 4  5m
R_R6         9 3  70m
R_R7         5 6  60m
R_R8        10 9  400m
.ENDS
